US07173134B2
The following is an adaptation of the method of Bringmann. A solution containing 4-bromo-1-naphthol (10.0 g, 0.045 mol), potassium carbonate (31 g, 0.224 mol), and 2-bromopropane (27.6 g, 0.224 mol) in DMF was heated at reflux for 1 h under a nitrogen atmosphere. The mixture was cooled to room temperature and the solvent was removed under reduced pressure. The resultant residue was subjected to silica gel chromatography using a 50% ethyl acetate-hexane mixture as the eluent to provide 4-isopropoxy-1-bromonaphthalene.

reactant | 4-bromo-1-naphthol | 0.045 mol, 10.0 g | BrC1=CC=C(C2=CC=CC=C12)O | C10H7BrO
reactant | potassium carbonate | 0.224 mol, 31 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 0.224 mol, 27.6 g | BrC(C)C | C3H7Br
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-isopropoxy-1-bromonaphthalene | C(C)(C)OC1=CC=C(C2=CC=CC=C12)Br | C13H13BrO
